US06277502B1
Methyl (E)-3-(6-heptyloxynaphth-2-yl)acrylate
A mixture of 5.2 g of 6-bromo-2-heptyloxynaphthalene, 25 ml of triethylamine, 4.3 ml of methyl acrylate, 0.072 g of palladium acetate and 0.392 g of tri-o-tolylphosphine is refluxed for 16 hours. The reaction mixture is then cooled and is partitioned between ethyl acetate and water and the organic phase is washed with water, dried over magnesium sulfate, filtered and evaporated down. The residue is chromatographed over 250 g of silica gel using toluene/ethyl acetate (3:1) and then crystallized from toluene. This gives methyl (E)-3-(heptyloxynaphth-2-yl)acrylate.

reactant | 6-bromo-2-heptyloxynaphthalene | 5.2 g | BrC=1C=C2C=CC(=CC2=CC1)OCCCCCCC | C17H21BrO
reactant | methyl acrylate | 4.3 ml | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 0.392 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium acetate | 0.072 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
product | Methyl (E)-3-(6-heptyloxynaphth-2-yl)acrylate | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)/C=C/C(=O)OC | C21H26O3
